US07919496B2
SYNTHESIS OF (5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
5-[4-(2-Trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester (0.100 g, 0.24 mmol) was added to the mixture of isoamylamine (2 mL) and sodium cyanide (0.023 g, 0.48 mmol). The reaction mixture was stirred for 16 hours at room temperature and then evaporated to dryness. The residue was redissolved in 50 mL of ethyl acetate and the solution was washed sequentially with water (2×15 mL), brine (2×15 mL), then dried over anhydrous Na2SO4, and concentrated. The title compound was obtained as a white powder in quantitative yield (0.110 g). 1H NMR (500 MHz, CDCl3) δ 7.73 (d, J=7.8 Hz, 1H), 7.62 (dd, J=7.5, 7.5 Hz, 1H), 7.55 (dd, J=7.5, 7.5 Hz, 1H), 7.34 (d, J=7.5 Hz, 1H), 7.01 (t, J=7.8 Hz, 1H), 4.03-4.08 (m, 1H), 3.85-3.91 (m, 1H), 3.62-3.74 (m, 2H), 3.51-3.55 (m, 2H), 3.40-3.46 (m, 2H), 3.32-3.35 (m, 2H), 1.61-1.69 (m, 2H), 1.45-1.51 (m, 1H), 0.92 (d, J=6.6 Hz, 6H). MS (ES+) m/z 456.4 (M+1).

reactant | 5-[4-(2-Trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | 0.24 mmol, 0.100 g | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
reactant | isoamylamine | 2 mL | C(CC(C)C)N | C5H13N
reactant | sodium cyanide | 0.48 mmol, 0.023 g | [C-]#N.[Na+]
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | quantitative yield | CC(CCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C20H24F3N5O2S
